US08084469B2
Methyl 5-(4-ethyl-3-fluorophenyl)piperidine-3-carboxylate hydrochloride [racemic cis/trans isomer mixture]
1.6 g (5.3 mmol) of methyl 5-(4-ethyl-3-fluorophenyl)-1-formylpiperidine-3-carboxylate were taken up in 10 ml of methanol, and heated to reflux with 1 ml of water and 0.5 ml of concentrated hydrochloric acid for three hours. The reaction mixture was concentrated and dried under reduced pressure. Yield: 1.5 g (63% of theory; purity 68%)

reactant | methyl 5-(4-ethyl-3-fluorophenyl)-1-formylpiperidine-3-carboxylate | 5.3 mmol, 1.6 g | C(C)C1=C(C=C(C=C1)C1CC(CN(C1)C=O)C(=O)OC)F | C16H20FNO3
reactant | water | 1 ml | O | H2O
reactant | hydrochloric acid | 0.5 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | Methyl 5-(4-ethyl-3-fluorophenyl)piperidine-3-carboxylate hydrochloride | Cl.C(C)C1=C(C=C(C=C1)C1CC(CNC1)C(=O)OC)F | InChI=1S/C15H20FNO2.ClH/c1-3-10-4-5-11(7-14(10)16)12-6-13(9-17-8-12)15(18)19-2;/h4-5,7,12-13,17H,3,6,8-9H2,1-2H3;1H
